US06727264B1
N-(3-{1-[5-(2-FLUOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure K and Scheme E using K2CO3 instead of Na2CO3 and NaI instead of KI and 5-chloro-1-(2-fluorophenyl)-1-pentanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 425.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | [Na+].[I-]
reactant | 5-chloro-1-(2-fluorophenyl)-1-pentanone | ClCCCCC(=O)C1=C(C=CC=C1)F | C11H12ClFO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[5-(2-FLUOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | FC1=C(C=CC=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C26H33FN2O2
